US04380641
N-(carbethoxycyanomethyl)propionamide
To 16 g. sodium nitrite, 60 ml. water and 22.6 g. ethyl cyanoacetate cooled to approximately 5° C. was added 16 ml. propionic acid. After stirring the reaction mixture at 0°-5° C. for 1.5 hours, 200 g. ice and 50 ml. propionic anhydride were added. Finally, 70 g. sodium hydrosulfite was added in portions over a time period of from about 5 to about 10 minutes. Stirring was continued for one hour, and the precipitated solid was collected by filtration. The solids were then washed with 60 ml. hot acetone and recrystallized from ether-petroleum ether. The structure was verified by NMR. Yield 6.8 g.

reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | ethyl cyanoacetate | C(#N)CC(=O)OCC | C5H7NO2
reactant | propionic acid | C(CC)(=O)O | C3H6O2
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | sodium hydrosulfite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | O | H2O
product | N-(carbethoxycyanomethyl)propionamide | C(=O)(OCC)C(NC(CC)=O)C#N | C8H12N2O3
